US04968829
To 2-[4-(3-methyl-2-butenoxy)phenoxy]propionitrile (2.0 g, 8.6 mmol) in 20 ml of ether is added lithium aluminum hydride (0.328 g, 8.6 mmol) in portions at 5°. After the addition, the reaction mixture is slowly warmed to RT and stirred for 18 hours. The reaction is worked up by cooling to 5° and by adding 0.33 ml of water, followed by 0.33 ml of 15% NaOH and 1 ml of water, with vigorous stirring. The solid is filtered off and the filtrate is washed with brine and dried over calcium sulfate. The ether is removed to give 2-[4-(3-methyl-2-butenoxy)phenoxy]propylamine.

reactant | 2-[4-(3-methyl-2-butenoxy)phenoxy]propionitrile | 8.6 mmol, 2.0 g | CC(=CCOC1=CC=C(OC(C#N)C)C=C1)C | C14H17NO2
reactant | lithium aluminum hydride | 8.6 mmol, 0.328 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.33 ml | O | H2O
reactant | NaOH | 0.33 ml | [OH-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 2-[4-(3-methyl-2-butenoxy)phenoxy]propylamine | CC(=CCOC1=CC=C(OC(CN)C)C=C1)C | C14H21NO2
